US05635527
trans-5-(4-Hydroxycyclohexyl)-1,3-dimethylhexahydro-2-oxo-1,3,5-triazine (1.00 g, 4.40 mmol) and t-butyl bromoacetate (1.29 g, 6.60 mmol) were dissolved in toluene (13 ml), and tetra-n-butylammonium hydrogensulfate (45 mg, 0.13 mmol) was added to the mixture. A solution of sodium hydroxide (13.2 g, 330 mmol) dissolved in water (13.2 ml) was dropwise added, and the mixture was stirred at room temperature for 15 hours. The organic layer was partitioned, washed with water and dried over anhydrous magnesium sulfate. After filtration, low boiling matters were distilled away from the filtrate under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride/methanol=20/1) to give 680 mg of trans-5-[4-[(t-butoxycarbonyl)methyloxy]cyclohexyl]-1,3-dimethylhexahydro-2-oxo-1,3,5-triazine as a colorless solid

reactant | trans-5-(4-Hydroxycyclohexyl)-1,3-dimethylhexahydro-2-oxo-1,3,5-triazine | 4.40 mmol, 1.00 g | O[C@@H]1CC[C@H](CC1)N1CN(C(N(C1)C)=O)C | C11H21N3O2
reactant | t-butyl bromoacetate | 6.60 mmol, 1.29 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | sodium hydroxide | 330 mmol, 13.2 g | [OH-].[Na+]
solvent | toluene | 13 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butylammonium hydrogensulfate | 0.13 mmol, 45 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 13.2 ml | O | H2O
product | trans-5-[4-[(t-butoxycarbonyl)methyloxy]cyclohexyl]-1,3-dimethylhexahydro-2-oxo-1,3,5-triazine | 680 mg | C(C)(C)(C)OC(=O)CO[C@@H]1CC[C@H](CC1)N1CN(C(N(C1)C)=O)C | C17H31N3O4
